US07700780B2
N-Hexyl-2,4-dimethylpyridinium bromide (Ih)
1-Bromohexane (1 equivalent) was dissolved in some toluene in a round bottomed flask flushed with nitrogen. Then, lutidine (1 equivalent) was added and the mixture was heated to reflux. During the reaction, a brown product appeared. The reaction was stopped after 8 hours. Afterwards, the solvent was removed under the reduced pressure. A minimum amount of acetonitrile was added to dissolve the residue and ether was added to precipitate the product. The crude product was washed with ether to afford off-white crystals. The yield of the reaction is 83%. 1H NMR (CDCl3, 200 MHz): δ 0.89 (t, 3H), 1.26 (m), 1.85 (m), 2.64 (s, 3H), 2.93 (s, 3H), 4.81 (t, 2H), 7.75(d, 2H), 9.51 (d, 1H); IR (CHCl3, cm−1): 1398 (C═C), 1635 (C═N), 2975 (N—C).

reactant | 1-Bromohexane | 1 equivalent | BrCCCCCC | C6H13Br
reactant | lutidine | 1 equivalent | N1=C(C=CC=C1C)C | C7H9N
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-Hexyl-2,4-dimethylpyridinium bromide | [Br-].C(CCCCC)[N+]1=C(C=C(C=C1)C)C | InChI=1S/C13H22N.BrH/c1-4-5-6-7-9-14-10-8-12(2)11-13(14)3;/h8,10-11H,4-7,9H2,1-3H3;1H/q+1;/p-1
